US07417064B2
[3-(Benzo[b]thiophen-4-yloxy)-4-cyclohexyl-butyl]-methyl-amine
Add trifluoroacetic acid (5.5 ml, 71 mmol) to a stirred solution of [3-(benzo[b]thiophen-4-yloxy)-4-cyclohexyl-butyl]-methyl-carbamic acid tert-butyl ester (1.49 g, 3.6 mmol) and dichloromethane (80 ml) at 0° C. under N2. Stir for 5 minutes at 0° C. and allow the reaction to reach room temperature. Stir for 90 minutes, add sodium bicarbonate. Partition between sodium bicarbonate and dichloromethane, wash the combined dichloromethane layers with brine, dry over sodium sulfate. Filter and concentrate to give the crude compound. Purify the compound by flash chromatography, eluting with 3% ethanol/0.3% ammonium hydroxide/chloroform to yield 0.511 g (45%) of the title compound: mass spectrum (ion spray) m/z=318 (M+1); HPLC (90/5/5 to 0/95/5 water/acetonitrile/5% formic acid) Xterra MS C18 2.1 mm×50 mm×3.5micron: Retention time 3.08 minutes, Purity 100%.

reactant | trifluoroacetic acid | 71 mmol, 5.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | [3-(benzo[b]thiophen-4-yloxy)-4-cyclohexyl-butyl]-methyl-carbamic acid tert-butyl ester | 3.6 mmol, 1.49 g | C(C)(C)(C)OC(N(C)CCC(CC1CCCCC1)OC1=CC=CC=2SC=CC21)=O | C24H35NO3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | [3-(Benzo[b]thiophen-4-yloxy)-4-cyclohexyl-butyl]-methyl-amine | 0.511 g, 45% | S1C2=C(C=C1)C(=CC=C2)OC(CCNC)CC2CCCCC2 | C19H27NOS
